US08648069B2
tert-Butyl 5-bromo-3-iodo-1H-indazole-1-carboxylate
To a solution of 5-bromoindazole (10 g, 50.75 mmol) in dimethylformamide (100 mL) was added KOH (10 g, 177.63 mmol). Over a period of 2 hours, iodine (20 g, 78.80 mmol) was added. The mixture was treated with a solution of Na2S2O5 (20 g) in water (200 mL), extracted with ethyl acetate, washed with brine, dried over sodium sulfate and filtered, and the solvent was removed under reduced pressure. The solid was dissolved in dichloromethane (350 mL) and treated with di-tert-butyl dicarbonate (14.4 g, 65.98 mmol) and dimethylaminopyridine (10 mg, 0.08 mmol). The mixture was stirred for 20 minutes at room temperature and passed directly through a bed of silica gel to afford the title compound. MS (DCI/NH3) m/z 422.9 (M+H)+.

reactant | 5-bromoindazole | 50.75 mmol, 10 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | KOH | 177.63 mmol, 10 g | [OH-].[K+]
reactant | iodine | 78.80 mmol, 20 g | II | I2
reactant | di-tert-butyl dicarbonate | 65.98 mmol, 14.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | tert-Butyl 5-bromo-3-iodo-1H-indazole-1-carboxylate | BrC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)I | C12H12BrIN2O2
